US06403610B1
0.4 gof methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)ethyl]piperidine-3-carboxylate was heated in 3 cm3 of methanol to which had been added 0.48 cm3 of 5N aqueous sodium hydroxide solution under an inert atmosphere for 16 hours. After concentrating the reaction mass under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained was taken up in 5 cm3 of 6N hydrochloric acid and then 2.5 cm3 of methanol. The brown solution obtained was evaporated under the same conditions as above. The residue which resulted therefrom was taken up in 5 cm3 of diisopropylether, filtered off, and washed with 2 times 3 cm3 of the same solvent. The solid obtained was dried under reduced pressure (13 Pa) at a temperature in the region of 60° C. 0.37 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride was obtained in the form of a solid with a brown color melting while softening in the region of 170° C.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)ethyl]piperidine-3-carboxylate | OC(CC[C@H]1[C@H](CN(CC1)CCSC1CCCCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C28H40N2O4S
reactant | sodium hydroxide | 5N, 0.48 cm3 | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 5 cm3 | Cl | ClH
solvent | methanol | 3 cm3 | CO | CH4O
solvent | diisopropylether | 5 cm3 | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 2.5 cm3 | CO | CH4O
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride | 0.37 g | Cl.Cl.OC(CC[C@H]1[C@H](CN(CC1)CCSC1CCCCC1)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | InChI=1S/C27H38N2O4S.2ClH/c1-33-20-8-9-25-23(17-20)22(11-13-28-25)26(30)10-7-19-12-14-29(18-24(19)27(31)32)15-16-34-21-5-3-2-4-6-21;;/h8-9,11,13,17,19,21,24,26,30H,2-7,10,12,14-16,18H2,1H3,(H,31,32);2*1H/t19-,24+,26?;;/m1../s1
